Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Extracted from Neurosurgery History and Physical 
___ is a ___ male who presents to ___ on 
___ with a mild TBI s/p fall this morning. He states that 
he was at home, when he had to get up to urinate, he felt dizzy, 
did not wait on side of bed for it to pass, took ___ steps with 
his walker and fell backwards. He struck the back of his head. 
Denies loss of consciousness. He lives at home with his wife, 
but felt that she could not pick him up, therefore waited on the 
floor for approximately two hours. At the OSH - a ___ showed a 
small right sided temporal occipital subdural hematoma and a 
left tentorial subdural hematoma. He was given KCentra and 
Vitamin K - for INR 2.6 while on Coumadin. He was transferred to 
___ for further management." 

 
Past Medical History:
-Permanent atrial fibrillation.
-Benign prostatic hypertrophy.
-Hypertension.
-Hyperlipidemia.
-Diverticulosis.
-Branch retinal vein occlusion.
-Cataract extraction.
-Anxiety disorder.
 
Social History:
___
Family History:
Reviewed and non-contributory for subdural hematoma.
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
=======================
GCS upon Neurosurgery Evaluation: 15   Time of evaluation: 1445

Airway: [ ]Intubated   [x]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [x]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [x]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

Exam:
Gen: WD/WN, comfortable, NAD.
HEENT: Occipital laceration, no active bleeding. PERRL. No other
visible lacerations noted. Poor dentition. 
Neck: Hard CCollar
Extrem: warm and well perfused

Neuro:
Mental Status: Awake, alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech is fluent with good comprehension. 

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3mm to 2mm
bilaterally.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
Normal bulk and tone bilaterally. No abnormal movements,
tremors. No pronator drift. Strength full power ___ throughout
upper extremities. Bilateral lower extremities ___ in strength -
? patient's baseline. 

Sensation: Intact to light touch

Handedness: Right

DISCHARGE PHYSICAL EXAM
=======================
VITALS: T 97.5, HR 66, BP 111/59, RR 18, O2 95% RA
GENERAL: Well appearing elderly male.
HEENT: PEERL. 1-cm non-bleeding occipital laceration/hematoma 
are healing. Anicteric sclerae. Oropharynx clear.
NECK: Non-tender.
CV: Irregular. Rate within normal limits. S1/S2. No murmur.
PULMONARY: Comfortable. Lungs are clear.
ABDOMEN: Soft. Non-tender.
EXTREMTIIES: Trace pretibial edema and hyperpigmentation.
NEURO: Awake, alert, and attentive. He is fully oriented. 
Cranial nerves II-XII are intact. Strength is intact throughout 
as is sensation.
 
Pertinent Results:
ADMISSION LABS
==============
___ 03:20PM BLOOD WBC-12.5* RBC-4.77 Hgb-14.9 Hct-43.5 
MCV-91 MCH-31.2 MCHC-34.3 RDW-13.0 RDWSD-43.2 Plt ___
___ 03:20PM BLOOD ___ PTT-29.2 ___
___ 03:20PM BLOOD Glucose-132* UreaN-14 Creat-0.6 Na-139 
K-3.8 Cl-101 HCO3-24 AnGap-14
___ 03:20PM BLOOD ALT-18 AST-35 AlkPhos-47 TotBili-0.8
___ 03:20PM BLOOD Albumin-4.0 Calcium-8.9 Phos-2.1* Mg-1.9
___ 04:02PM BLOOD Lactate-1.7

DISCHARGE LABS
==============
___ 08:45AM BLOOD WBC-10.4* RBC-4.42* Hgb-13.8 Hct-41.5 
MCV-94 MCH-31.2 MCHC-33.3 RDW-13.0 RDWSD-44.6 Plt ___
___ 08:45AM BLOOD ___ PTT-29.7 ___
___ 08:45AM BLOOD Glucose-124* UreaN-14 Creat-0.6 Na-141 
K-3.5 Cl-101 HCO3-23 AnGap-17
___ 08:45AM BLOOD Calcium-8.9 Phos-2.2* Mg-1.9

STUDIES
=======
CT HEAD WITHOUT CONTRAST (___)
IMPRESSION: 
1. Similar appearance of right posterolateral subdural hematoma, 
with possible  2.3 cm epidural component overlying the right 
parietal lobe. 
2. Subdural hemorrhage along the left tentorial leaflet appears 
larger 
measuring up to 0.8 cm in thickness, previously 0.5 cm. 
3. No midline shift. 

 
Brief Hospital Course:
___ male anticoagulated for atrial fibrillation 
hospitalized for two stable subdural hematomas after a traumatic 
brain injury managed expectantly.

#Subdural hematoma. His history was compelling for orthostasis 
which was indeed confirmed by postural vital signs here. He was 
resuscitated and is drinking well to thirst now. His home At___ 
could be contributory but this is a longstanding medication and 
his family requested it for anxiolysis. A non-contrast head CT 
revealed small right-sided temporooccipital and left tentorial 
subdural hematomas. His INR was 2.6 at the outside hospital 
where it was reversed with KCentra followed by a three-day 
course of vitamin K. A repeat non-contrast head CT was performed 
here. The former might have an epidural component but was 
essentially stable. The latter enlarged from 0.5 to 0.8 cm. His 
neurologic exam was non-focal so was managed expectantly in that 
regard. He was treated with a 7-day course of an empiric 
antiepileptic.

CHRONIC/STABLE ISSUES
#Urinary retention/benign prostatic hypertrophy. Tamsulosin was 
substituted for doxazosin in the context of orthostasis, but he 
was still catheterized for volumes in excess of 500 cc 
thereafter. He was therefore presumed to have a hypotonic 
bladder from longstanding retention which was unappreciated at 
home due to overflow incontinence. A Foley is not advised, and 
intermittent catheterization was distressing on some occasions, 
so recommend postponing until volume approaches 750 cc or at his 
discretion. 

#Atrial fibrillation. He was rate controlled with propranolol. 
His INR was reversed and warfarin was withheld. He has no 
absolute indications for anticoagulation beyond his moderate 
risk of stroke. 

#Hypertension. He was normotensive. Continued nifedipine and 
propranolol for a goal systolic <160. A more bladder selective 
alpha antagonist might be prudent, hence tamsulosin.

TRANSITIONAL ISSUES
===================
[]Note neurosurgery follow-up on ___. Surveillance CT 
is recommended at that time. 
[]Monitor blood pressure. Adjust antihypertensives accordingly 
for goal systolic <160.
[]Continue empiric Keppra 500 mg BID for 7-day course in total 
(projected end date is ___
[]Consider withholding warfarin indefinitely. If keen on 
resuming for stroke prophylaxis, wait until cleared by 
neurosurgery at follow-up.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
2. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
3. Warfarin 2.5 mg PO DAILY16 
4. Propranolol 20 mg PO BID 
5. LORazepam 1 mg PO BID PRN  anxiety  
6. Doxazosin 3 mg PO DAILY 
7. Simvastatin 20 mg PO QPM 
8. NIFEdipine (Extended Release) 60 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID:PRN Pain  
2.  LevETIRAcetam 500 mg PO BID  
3.  Polyethylene Glycol 17 g PO DAILY  
4.  Tamsulosin 0.4 mg PO QHS  
5.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID  
6.  LORazepam 1 mg PO BID PRN  anxiety   
7.  NIFEdipine (Extended Release) 60 mg PO DAILY  
8.  Propranolol 20 mg PO BID  
9.  Simvastatin 20 mg PO QPM  
10.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID  
11. HELD- Warfarin 2.5 mg PO DAILY16  This medication was held. 
Do not restart Warfarin until instructed by your neurosurgeon 
and primary provider.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
-Right occipital epidural/subdural hematoma and left tentorial 
subdural hematoma.

SECONDARY
-Traumatic brain injury.
-Orthostatic hypotension.
-Coagulopathy secondary to anticoagulant. 
-Atrial fibrillation.
-Urinary retention.
-Hypertension. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 
 
It was a pleasure caring for you at ___ 
___. You were hospitalized for a head bleed after 
falling and striking your head. The bleed appeared stable by 
serial CT scans. You take warfarin for atrial fibrillation which 
was withheld due to the bleed. It might not be safe to resume 
this medication after you leave the hospital. We shared the 
decision to improve your strength and mobility at rehab before 
returning home. Please see other instructions from our 
neurosurgery colleagues below. We wish you all the best in your 
recovery. 

Sincerely,
Your ___ care team  

*Discharge instructions for brain hemorrhage without surgery*

Activity
- We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
- You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
- No driving while taking any narcotic or sedating medication. 
- If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
- No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
- Please do NOT take any blood thinning medication (aspirin, 
ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
- You have been discharged on levetiracetam (Keppra). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
- You may use acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
- You may have difficulty paying attention, concentrating, and 
remembering new information.
- Emotional and/or behavioral difficulties are common. 
- Feeling more tired, restlessness, irritability, and mood 
swings are also common.
- Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
- Headache is one of the most common symptom after a brain 
bleed. 
- Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
- Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
- There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
- Severe pain, swelling, redness or drainage from the incision 
site. 
- Fever greater than 101.5 degrees Fahrenheit
- Nausea and/or vomiting
- Extreme sleepiness and not being able to stay awake
- Severe headaches not relieved by pain relievers
- Seizures
- Any new problems with your vision or ability to speak
- Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
- Sudden numbness or weakness in the face, arm, or leg
- Sudden confusion or trouble speaking or understanding
- Sudden trouble walking, dizziness, or loss of balance or 
coordination
- Sudden severe headaches with no known reason
 
Followup Instructions:
___